US07135502B1
Trichloromethyl chloroformate (0.094 ml; 0.77 mmol) was added in portions at 0° C. to a solution of N-[(5S)-3-carbamoyl-9,10,11-trimethoxy-6,7-dihydro-5H-dibenzo[a,c]cyclohepten-5-yl]acetamide (0.2 g; 0.484 mmol), (prepared as described for Example 29) and trimethyl phosphate (0.306 ml; 2.6 mmol). The mixture was allowed to warm up and then heated at 60° C. for 5 minutes. The reaction mixture was poured onto ice and stirred. The resulting precipitate was filtered, dried and purified by flash chromatography, eluting with dichloromethane/ethyl acetate (1/1) to give N-[(5S)-3-cyano-9,10,11-trimethoxy-6,7-dihydro-5H-dibenzo[a,c]cyclohepten-5-yl]acetamide.

reactant | Trichloromethyl chloroformate | 0.77 mmol, 0.094 ml | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
reactant | N-[(5S)-3-carbamoyl-9,10,11-trimethoxy-6,7-dihydro-5H-dibenzo[a,c]cyclohepten-5-yl]acetamide | 0.484 mmol, 0.2 g | C(N)(=O)C=1C=CC2=C([C@H](CCC3=C2C(=C(C(=C3)OC)OC)OC)NC(C)=O)C1 | C21H24N2O5
reactant | trimethyl phosphate | 2.6 mmol, 0.306 ml | P(=O)(OC)(OC)OC | C3H9O4P
product | N-[(5S)-3-cyano-9,10,11-trimethoxy-6,7-dihydro-5H-dibenzo[a,c]cyclohepten-5-yl]acetamide | Yield: 61% | C(#N)C=1C=CC2=C([C@H](CCC3=C2C(=C(C(=C3)OC)OC)OC)NC(C)=O)C1 | C21H22N2O4
